US08314097B2
A. 3-Bromo-4-{4-[4-(tert-butyldimethylsilanyloxy)butyl]imidazol-1-ylmethyl}benzonitrile
To 4-[4-(tert-butyldimethylsilanyloxy)butyl]-1-trityl-1H-imidazole (3.95 g, 7.95 mmol) is added acetonitrile (300 mL). To this solution is added 3-bromo-4-bromomethylbenzonitrile (2.14 g, 7.78 mmol). The solution is stirred at 40° C. for 18 h. The solvent is then removed in vacuo and methanol (300 ml) is added. The solution is heated to 55° C. and stirred for 1.5 h. Saturated sodium bicarbonate is then added and stirred for 10 min. The organic solvent is removed in vacuo, and the crude product extracted into ethyl acetate and washed with water. The organic solvent is removed in vacuo to give the crude product. Chromatography (silica gel, 1:0 to 1:1 to 0:1 hexanes:ethyl acetate) gives the pure product. MS (ESI) m/z 448, 450 (M+H).

reactant | 4-[4-(tert-butyldimethylsilanyloxy)butyl]-1-trityl-1H-imidazole | 7.95 mmol, 3.95 g | [Si](C)(C)(C(C)(C)C)OCCCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H40N2OSi
reactant | acetonitrile | 300 mL | C(C)#N | C2H3N
reactant | 3-bromo-4-bromomethylbenzonitrile | 7.78 mmol, 2.14 g | BrC=1C=C(C#N)C=CC1CBr | C8H5Br2N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-4-{4-[4-(tert-butyldimethylsilanyloxy)butyl]imidazol-1-ylmethyl}benzonitrile | BrC=1C=C(C#N)C=CC1CN1C=NC(=C1)CCCCO[Si](C)(C)C(C)(C)C | C21H30BrN3OSi
